US04031226
A mixture of 7.3 parts of N-(2-bromoethyl)-4-fluoro-2-nitrobenzamide, 6.2 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 5.2 parts of sodium carbonate and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The aqueous phase is extracted with 4-methyl-2-pentanone. The combined organic phases are washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is crystallized from 2-propanone. The product is filtered off and dried, yielding 1 part of N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-ethyl}-4-fluoro-2-nitrobenzamide.

reactant | N-(2-bromoethyl)-4-fluoro-2-nitrobenzamide | BrCCNC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C9H8BrFN2O3
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-ethyl}-4-fluoro-2-nitrobenzamide | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCNC(C2=C(C=C(C=C2)F)[N+](=O)[O-])=O)C=C1 | C21H21ClFN5O4
